US08207373B2
Stage 1: (4-benzyl-phenyl)-(2-nitro-phenyl)-amine
The product (621 mg) is obtained according to the method of stage 1 of Example 4, by using 958 μL of 2-fluoro-nitrobenzene and 2 g of 4-benzylaniline in the presence of 1.63 of potassium tert-butanolate in 30 mL of DMSO.

reactant | 2-fluoro-nitrobenzene | 958 μL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-benzylaniline | 2 g | C(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C13H13N
reactant | potassium tert-butanolate | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | (4-benzyl-phenyl)-(2-nitro-phenyl)-amine | C(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C19H16N2O2
